US05866564
(2S,4S)-2-[3,3-Dimethyl-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 38, but using 0.35 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 0.15 g of N,N'-carbonyldiimidazole and 0.13 g of 2,2-dimethylpiperazine, 250 mg of the title compound were obtained as an amorphous solid.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 0.35 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 2,2-dimethylpiperazine | 0.13 g | CC1(NCCNC1)C | C6H14N2
product | (2S,4S)-2-[3,3-Dimethyl-4-(4-nitrobenzyloxycarbonyl)-1-piperazinylcarbonyl]-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 250 mg | CC1(CN(CCN1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C27H31N5O9S
